Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever, abdominal collection
 
Major Surgical or Invasive Procedure:
___: CT-guided drainage catheter placement into the left 
abdominal fluid collection
 
History of Present Illness:
___ y/o male ___ years out from undergoing a liver transplant for 
hepatitis C
cirrhosis.  He underwent a splenectomy and distal pancreatectomy 
on ___ for idiopathic thrombocytopenic purpura and portal 
hypertension. This was c/b  left upper quadrant abscess for 
which a drain was placed. The drain was removed at the beginning 
of ___ as there was minimal output. He had also developed a left 
chest empyema for which he underwent VATS and decortication on 
___ with Dr. ___. He presented to the ER today with 
two day history of fevers and chills. He denies nausea, 
vomiting, diarrhea and has not had abdominal pain.
 
Past Medical History:
# ESLD ___ HCV cirrhosis, s/p OLT on ___  
- c/b biliary strictures w/ Roux en-Y hepaticogjejunostomy 
___  
# h/o polysubstance abuse  
# h/o L ureteral obstruction s/p stent placement ___  
- new stent placed ___ for L hydronephrosis  
# anal fissures/fistulae s/p repair ___  
# hypertension  
# SVT  
# esophagitis  
# cognitive disorder  
# adjustment disorder  
Portal vein thrombus
Splenomegaly
ITP
gram negative bacteremia ___
L hydronephrosis ___ splenomegaly with stent placement
.  
PSH: (per initial H&P)  
# OLT ___ c/b biliary strictures w/ Roux en-Y 
hepaticojejunostomy
# incision hernia repair ___  
# s/p hemorrhoid repair  
# anal fistulectomy in ___ + ___, ___ placement 
___  
# appendectomy  
# cholecystectomy  
# splenectomy with distal pancreatectomy ___
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
VS: 100.3, 88, 123/62, 16, 99%RA
Gen: NAD, A+Ox3
Card: RRR, no M/R/G
Lungs: CTA bilaterally
Abd: Soft, non-distended, non-tender, no guarding or rebound
 
Pertinent Results:
On Admission: ___
WBC-15.9*# RBC-3.59* Hgb-9.3* Hct-29.8* MCV-83 MCH-25.8* 
MCHC-31.2 RDW-20.5* Plt ___ PTT-45.7* ___
Glucose-83 UreaN-32* Creat-0.9 Na-130* K-4.7 Cl-99 HCO3-22 
AnGap-14
ALT-32 AST-55* AlkPhos-674* TotBili-1.0
Calcium-8.9 Phos-2.9 Mg-2.1 Albumin-3.0*
___ FK-4.0*
On Discharge: ___
WBC-8.1 RBC-3.10* Hgb-7.7* Hct-26.2* MCV-84 MCH-24.9* MCHC-29.5* 

RDW-18.9* Plt ___
Glucose-79 UreaN-33* Creat-0.7 Na-134 K-4.6 Cl-103 HCO3-26 
AnGap-10
ALT-46* AST-89* AlkPhos-545* TotBili-0.8
Albumin-2.7* Calcium-9.1 Phos-2.9 Mg-1.9
___ Vanco-19.___ y/o male s/p liver transplant ___ years ago now with recurrent 
fever after drain removal 2 weeks ago from known fluid 
collection in the splenectomy bed.
He was started on Vanco and Meropenum and a CT of the abdomen 
obtained on admission showed:
-Reaccumulation of intraabominal abscess within the left upper 
quadrant.
-Left pleural collection small in size with thicked, enhancing 
pleura likely representing empyema, decreased in size compared 
to prior.
-Stable partial chronic thrombus seen within the portal vein and 
splenic veins which are markedly dilated.
After undergoing reversal of his INR with FFP, he underwent 
percutaneous drainage of the known fluid collection in the 
abdomen. Approximately 50 cc of purulent fluid was aspirated, 
with sample sent for culture and gram stain. The catheter was 
attached to a drainage bag and left to open drainage. An attempt 
was made to aspirate any collection in the pleural space, but no 
fluid was available for aspiration.
The fluid culture grew Proteus and this will be continued to be 
treated with IV Meropenum until re-evaluation by the ID team as 
an outpatient. Blood cultures drawn at the beginning of the 
hospitalization have been consistently negative, however there 
are several that remain pending at the time of discharge.
He has had intermittent periods of low grade fevers, but he has 
been afebrile for 36 hours.
He will be followed by Transplant surgery, Pulmonology and 
Infectious disease.
Repeat CT scan to be performed as outpatient.
He is being discharged to ___ facility

 
Medications on Admission:
PredniSONE 3' Tacrolimus ___, Furosemide 20', Insulin SC SS 
Gabapentin 300'', Ursodiol 300'' Pantoprazole 40' Methadone 60' 
Pangestyme-EC 2 CAP TID W/MEALS, Sertraline 50', Diltiazem ER 
180'
Senna 1 TAB BID:PRN, Latanoprost 0.005% Ophth.1 GTT BOTH EYES HS
colace 100 BID, Atenolol 50' 

 
Discharge Medications:
1. Epoetin Alfa 10,000 unit/mL Solution Sig: One (1)  Injection 
once a week.  
2. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
7. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
8. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
10. Methadone 40 mg Tablet, Soluble Sig: 1.5 Tablet, Solubles PO 
DAILY (Daily).  
11. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
12. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
13. Insulin Lispro 100 unit/mL Solution Sig: per sliding scale  
Subcutaneous ASDIR (AS DIRECTED).  
14. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
15. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed.  
17. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed.  
18. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q8H (every 8 
hours) as needed for pain.  
19. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).  
20. Warfarin 3 mg Tablet Sig: One (1) Tablet PO Every other day. 
Start ___.  
21. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO twice a day. 
 
22. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
23. Meropenem 500 mg IV Q6H 
24. Ondansetron HCl (PF) 4 mg/2 mL Solution Sig: One (1)  
Injection Q8H (every 8 hours) as needed.  
25. Vancomycin 750 mg IV Q 12H 
26. Heparin, Porcine (PF) 10 unit/mL Syringe Sig: One (1) ML 
Intravenous PRN (as needed) as needed for line flush: Per 
facility protocol.  
27. Warfarin 2 mg Tablet Sig: One (1) Tablet PO every other day: 
Start today ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Abdominal fluid collection
s/p splenectomy
Liver transplant recipient ___

 
Discharge Condition:
Fair

 
Discharge Instructions:
Please call the transplant clinic at ___ if the patient 
has fever > 101, chills, nausea, vomiting, diarrhea, inability 
to take or keep down medications.
Full labs to include INR on ___. PLease fax results 
to ___
IV antibiotics to be re-evaluated by Dr ___ 
___
 
Followup Instructions:
___